US08871884B2
3-octoxythiophene (2′)
A mixture of 3-methoxythiophene (7.28 g, 63.76 mmol), 1-octanol (20.09 mL, 127.53 mmol), p-toluenesulfonic acid monohydrate (1.21 g, 6.38 mmol) and 60 mL toluene was heated in a 130° C. bath for 15 hours under argon. After dichloromethane/water extraction, the organic layer was dried over anhydrous Na2SO4. After solvent evaporation, the residue was purified by column chromatography (silica gel 3:1 hexane:dichloromethane) to give 2′ as a colorless solid (13.00 g, 96%). 1H NMR (CDCl3, 300 MHz, ppm): δ 7.18-7.21 (m, 1H), 6.78-6.80 (m, 1H), 6.25-6.26 (m, 1H), 3.97 (t, 2H, 6.6 Hz), 1.76-1.85 (m, 2H), 1.33-1.48 (m, 10H), 0.91-0.95 (m, 3H).

reactant | 3-methoxythiophene | 63.76 mmol, 7.28 g | COC1=CSC=C1 | C5H6OS
reactant | 1-octanol | 127.53 mmol, 20.09 mL | C(CCCCCCC)O | C8H18O
reactant | p-toluenesulfonic acid monohydrate | 6.38 mmol, 1.21 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 3-octoxythiophene | 13.00 g, 96% | C(CCCCCCC)OC1=CSC=C1 | C12H20OS
